US09163040B2
(R)-ethyl 3-amino-4-(5′-chloro-2′-fluoro-[1,1-biphenyl]-4-yl)butanoate (114 mg, 0.306 mmol), 3-phosphonoproprionic acid (47.2 mg, 0.306 mmol), EDC (58.7 mg, 0.306 mmol) and HOBT (46.9 mg, 0.306 mmol) were mostly dissolved in DMF (1 mL), and DIPEA (0.321 mL, 1.837 mmol) was added. The reaction mixture was stirred and heated at 70° C. approximately 18 hours, then filtered and purified by HPLC: 30-80% ACN/H2O 0.1% TFA, 40 mL/min over 15 min 30×100 Sunfire C18, product elutes approximately 5.5-8 min. A mixed fraction was repurified on a 20-55% gradient over 20 min, and product eluted ˜12.5-13 min. The fractions were evaporated to dryness to afford (R)-(3-((1-(5′-chloro-2′-fluoro-[1,1-biphenyl]-4-yl)-4-ethoxy-4-oxobutan-2-yl)amino)-3-oxopropyl)phosphonic acid (17 mg) LCMS (ES+) C21H24ClFNO6P: Calc.: 471.1; Found: 472.0[M+H]+.

reactant | (R)-ethyl 3-amino-4-(5′-chloro-2′-fluoro-[1,1-biphenyl]-4-yl)butanoate | 0.306 mmol, 114 mg | N[C@@H](CC(=O)OCC)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F | C18H19ClFNO2
reactant | 3-phosphonoproprionic acid | 0.306 mmol, 47.2 mg | P(=O)(O)(O)CCC(=O)O | C3H7O5P
reactant | EDC | 0.306 mmol, 58.7 mg
reactant | HOBT | 0.306 mmol, 46.9 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.837 mmol, 0.321 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R)-(3-((1-(5′-chloro-2′-fluoro-[1,1-biphenyl]-4-yl)-4-ethoxy-4-oxobutan-2-yl)amino)-3-oxopropyl)phosphonic acid | 17 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)C[C@H](CC(=O)OCC)NC(CCP(O)(O)=O)=O)F | C21H24ClFNO6P
